US04263223
Synthesis of 4-hydroxy-3-bromo-benzaldehyde
In a suspension of 61.1 g (1/2 mole) of 4-hydroxy-benzaldehyde in 600 ml of chloroform cooled to 0° C., there is added drop by drop 27 ml of bromine dissolved in chloroform.

reactant | 4-hydroxy-benzaldehyde | 1/2 mole, 61.1 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | bromine | 27 ml | BrBr | Br2
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-hydroxy-3-bromo-benzaldehyde | OC1=C(C=C(C=O)C=C1)Br | C7H5BrO2
